US05023334
Preparation of 3-trifluoromethylbenzoic acid [1-(3-pyridinyl)propylidene]hydrazide, Compound 316
A mixture of 10.21 gm (0.05 mole) of 3-trifluoromethylbenzoic acid hydrazide, 6.76 gm (0.05 mole) of ethyl-3-pyridyl ketone, 10 drops of glacial acetic acid and 100 ml of absolute ethanol was refluxed 15 hr. The reaction mixture was diluted with water to the cloud point and cooled at room temperature than chilled in the refrigerator. The solids that separated were collected, washed with Skellysolve B and dried to give 11.88 gm (74%) of product having a melting point of 119.4° C.

reactant | 3-trifluoromethylbenzoic acid hydrazide | 0.05 mole, 10.21 gm | FC(C=1C=C(C(=O)NN)C=CC1)(F)F | C8H7F3N2O
reactant | ethyl-3-pyridyl ketone | 0.05 mole, 6.76 gm | C(C)C(=O)C=1C=NC=CC1 | C8H9NO
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-trifluoromethylbenzoic acid [1-(3-pyridinyl)propylidene]hydrazide | 11.88 gm, 74% | N1=CC(=CC=C1)C(CC)=NNC(C1=CC(=CC=C1)C(F)(F)F)=O | C16H14F3N3O
